US06979690B2
Step 2. 2-[4-({[(6-Amino-5-chloro-2-methoxypyridin-3-yl)carbonyl]amino}-methyl)piperidine-1-yl]hexanoic acid
To a solution of ethyl 2-[4-({[(6-amino-5-chloro-2-methoxypyridin-3-yl)carbonyl]amino}methyl)piperidin-1-yl]hexanoate (4.3 g, 9.75 mmol) in methanol (50 ml) was added 2N aqueous sodium hydroxide (9.8 ml, 19.5 mmol) and the mixture was refluxed for 12 h. After cooled to room temperature, concentrated in vacuo. The resultant solid was treated with 2N aqueous hydrochloric acid (19.5 ml) to afford white solid, which was collected by filtration, washed with water (50 ml) gave 3.8 g (94%) of the title compound as white powder.

reactant | ethyl 2-[4-({[(6-amino-5-chloro-2-methoxypyridin-3-yl)carbonyl]amino}methyl)piperidin-1-yl]hexanoate | 9.75 mmol, 4.3 g | NC1=C(C=C(C(=N1)OC)C(=O)NCC1CCN(CC1)C(C(=O)OCC)CCCC)Cl | C21H33ClN4O4
reactant | sodium hydroxide | 19.5 mmol, 2N, 9.8 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-[4-({[(6-Amino-5-chloro-2-methoxypyridin-3-yl)carbonyl]amino}-methyl)piperidine-1-yl]hexanoic acid | 3.8 g, 94% | NC1=C(C=C(C(=N1)OC)C(=O)NCC1CCN(CC1)C(C(=O)O)CCCC)Cl | C19H29ClN4O4
